US07855201B2
Step 1: 2-fluoropropane-1,3-diyl bis(trifluoromethanesulfonate)
To an ice cold solution (0° C. internal temp) of 1 g of 2-fluoro-1,3-propanediol and 3 mL of anhydrous pyridine in 50 mL of anhydrous ether was added dropwise 5.5 mL of triflic anhydride dropwise, keeping the internal temperature below 15° C. After 20 min stirring in the ice bath, the mixture was allowed to warm to room temperature and stirred for 3 h. The mixture was then filtered, concentrated on the rotovap, redissolved in anhydrous ether, refiltered and concentrated again on the rotovap. Drying under vacuum gave an oil.

reactant | 2-fluoro-1,3-propanediol | 1 g | FC(CO)CO | C3H7FO2
reactant | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 5.5 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | ether | 50 mL | CCOCC | C4H10O
product | 2-fluoropropane-1,3-diyl bis(trifluoromethanesulfonate) | FC(S(=O)(=O)OCC(COS(=O)(=O)C(F)(F)F)F)(F)F | C5H5F7O6S2
